US07585868B2
Synthesis of 1-(3-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl)ethanone (BA81, BA81d & BA81dd).
A solution of tert-butyl 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate (200 mg, 0.76 mmol) in EtOH (3.3 ml) was added to a solution of 1-cyclopentyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (BA80, 100 mg, 0.30 mmol) in DME (12 ml). Pd(PPh3)4 (30 mg, 0.03 mmol) and saturated Na2CO3 (1.9 ml) were added and the reaction was heated to 80° C. under an argon atmosphere overnight. After cooling, the reaction was extracted with saturated NaCl and CH2Cl2. Organic phases were combined, concentrated in vacuo and purified using silica gel column chromatography [MeOH—CH2Cl2, 5:95] yielding BA81. BA81 was dissolved in 50:50 CH2Cl2:TFA and stirred for one hour at room temperature. The reaction mixture was concentrated in vacuo and purified using by RP-HPLC (MeCN:H2O:0.1% TFA) to yield BA81d. BA81d was dissolved in CH2Cl2 (2 ml) and BBr3 (4 mL, 4 mol) was added slowly with a syringe, while stirring. The reaction was stirred at room temperature for 2 hours then concentrated in vacuo and purified using by RP-HPLC (MeCN:H2O:0.1% TFA) to yield BA81dd.

reactant | tert-butyl 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | 0.76 mmol, 200 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(OC(C)(C)C)=O | C18H28BNO5
reactant | 1-cyclopentyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.30 mmol, 100 mg | C1(CCCC1)N1N=C(C=2C1=NC=NC2N)I | C10H12IN5
reactant | Na2CO3 | 1.9 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | BBr3 | 4 mol, 4 mL | B(Br)(Br)Br | BBr3
solvent | EtOH | 3.3 ml | CCO | C2H6O
solvent | DME | 12 ml | COCCOC | C4H10O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl)ethanone | NC1=C2C(=NC=N1)N(N=C2C=2C=C(C=CC2)C(C)=O)C(C)C | C16H17N5O
